data/oMe_Silver.jsonl
{"reaction_id": "NR-325_1-C1CCCCC1_2-C1COC(C)C1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(C1CCCCC1)C1COC(C)C1","NN","[OH-]"],"products_smiles": ["C(C1CCCCC1)C1COC(C)C1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(C1CCCCC1)C1COC(C)C1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(C1CCCCC1)C1COC(C)C1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(C1CCCCC1)C1COC(C)C1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](C1CCCCC1)C1COC(C)C1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)C1COC(C)C1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
{"reaction_id": "NR-240_1-c1ccc(OC)cc1_2-C(=O)OC_3-CC_4-C_5-Cc1ccc(OC)cc1","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1ccc(OC)cc1C(=O)C(C(=O)OC)[N+](CC)(C)Cc1ccc(OC)cc1","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(C(=O)OC)(Cc1ccc(OC)cc1)N(CC)(C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(C(=O)OC)[N+](CC)(C)Cc1ccc(OC)cc1","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(C(=O)OC)(Cc1ccc(OC)cc1)N(CC)(C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
